US07365065B2
A mixture of 3-cyanobenzoic acid (5.0 g, 34 mmol), 10% palladium on carbon (1 g) and concentrated hydrochloric acid (3 ml) in methanol (150 ml) was stirred under hydrogen gas at atmospheric pressure for 6 h. The mixture was filtered through Celite®, reduced and azeotroped with toluene. The residue was taken up in 1M potassium hydrogen carbonate solution (105 ml) and dioxan (50 ml) and cooled in an ice/water bath. A solution of di-tert-butyl dicarbonate (7.9 g, 36 mmol) in dioxan (25 ml) was added and the mixture was allowed to warm to room temperature. After stirring for 3 days the dioxan was removed in vacuo. The aqueous residue was washed with 60-80 pet.ether, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried and reduced to afford tert-butyl N-(3-carboxybenzyl)carbamate (8.2 g, 86%) as a white solid.

reactant | 3-cyanobenzoic acid | 34 mmol, 5.0 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | di-tert-butyl dicarbonate | 36 mmol, 7.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | tert-butyl N-(3-carboxybenzyl)carbamate | 8.2 g, 86% | C(=O)(O)C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H17NO4
